US04808711
Synthesis of 7-{2-[2-amino-1,3-thiazol-4-yl]-2-[3-(3,4-diacetoxybenzoyl)carbazoyl]methoxyiminoacetamido}-3-[(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid.hydrochloride
In 3 ml of methylene chloride was suspended 0.35 g (0.53 mmole) of 7-[2-(2-amino-1,3-thiazol-4-yl)-2-carbazoylmethoxyiminoacetamido]-3-[(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid.dihydrochloride obtained in Reference example 9 and the suspension was dissolved by adding 1.35 g (6.66 mmole) of N,O-bis(trimethylsilyl)acetamide. To the mixture was added 0.136 g (0.53 mmole) of 3,4-diacetoxybenzoic acid chloride and the mixture was stirred at room temperature for one hour. The mixture was poured into 200 ml of ether and added thereto a small amount of methanol while stirring. The resulting precipitates were collected by filtration, washed with water and then dried to obtain 0.42 g of the title compound. (Yield: 94.1%)

reactant | 7-[2-(2-amino-1,3-thiazol-4-yl)-2-carbazoylmethoxyiminoacetamido]-3-[(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid.dihydrochloride | 0.53 mmole, 0.35 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)=NOCC(NN)=O
reactant | N,O-bis(trimethylsilyl)acetamide | 6.66 mmole, 1.35 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 3,4-diacetoxybenzoic acid chloride | 0.53 mmole, 0.136 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1OC(C)=O | C11H9ClO5
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 7-{2-[2-amino-1,3-thiazol-4-yl]-2-[3-(3,4-diacetoxybenzoyl)carbazoyl]methoxyiminoacetamido}-3-[(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid.hydrochloride | 0.42 g, Yield: 94.1% | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)=NOCC(NNC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)=O | InChI=1S/C29H27N9O11S4.ClH/c1-11-33-36-29(53-11)52-9-15-8-50-26-21(25(44)38(26)22(15)27(45)46)32-24(43)20(16-10-51-28(30)31-16)37-47-7-19(41)34-35-23(42)14-4-5-17(48-12(2)39)18(6-14)49-13(3)40;/h4-6,10,21,26H,7-9H2,1-3H3,(H2,30,31)(H,32,43)(H,34,41)(H,35,42)(H,45,46);1H/t21?,26-;/m1./s1
